Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
shellfish derived
 
Attending: ___.
 
Chief Complaint:
"I screwed up when I was making tea and my nurse
told me to come here."
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
Mr. ___ is a ___ man with a past psychiatric history 
of schizophrenia and prior K2 use who was brought in by 
ambulance for inability to care for self after his ___ found him 
with a hole burned in his shirt, the stove on and unattended, 
and very little food at home.

Mr. ___ called emergency services on ___ after he was 
found unkempt, with stove on and unattended, and a hole burned 
in patient's shirt, with very little food in the home.  ___ 
concerned that patient is inconsistently taking his medications. 
 Patient missed the last two appointments with his psychiatrist, 
and has been avoiding case workers from ___ (last seen on
___.  

On assessment on the unit, Mr. ___ reports that on the day he 
presented to the ED, he had been making tea on the stove, had 
left the stove unattended to smoke and then dropped the 
cigarette on his shirt, leaving a burn mark. He understands he 
is on an inpatient psychiatric unit and recalls several previous
psychiatric admissions but is unaware of his underlying 
diagnosis or what he sees his psychiatrist, Dr. ___. He 
is unsure what his medications are and says that he 
self-administers them at home. He would like for his team here 
to assist him in coordinating follow-up procedures for his jaw 
injury which he
sustained 2 months ago. He reports that about 2 months ago, 
while he was eating his breakfast he got assaulted resulting in 
a severe jaw injury (per collateral from ___ caseworker, 
sustained jaw injury after a fall). He reports he missed his 
followup appointment at ___ (does not recall name of his doctor) 
last week
because "it was snowing." He denied any current or past symptoms 
of auditory/visual hallucinations. He did admit to vague, 
generalized paranoia which occurs intermittently and gets better 
when he "sits down in a corner and relaxes." He reports his mood 
is "good" and would like to go home soon so that he can attend 
to his apartment. He is willing to take psychiatric medications
while he is here. Denies all thoughts of harm to himself or 
others. 

Course in Emergency Department:
Patient remained in good behavioral control while in the ED. 
Skin exam consistent with scabies infection, and patient 
received Ivermectin 13.6 mg at 10:45 ___ on ___.  In speaking 
with ID, patient considered medically cleared 24 hours after 
receiving Ivermectin, and should receive an additional dose 
(13.6 mg) in ___ days.  

COLLATERAL obtained while in the ED:
Dr. ___ psychiatrist, ___:
- She initially met him when he was homeless and disorganized. 
Diagnosed him with schizophrenia.  He had improved with 
Risperdal 3 mg.  After outreach, he agreed to medication which 
improved his thought disorder.  
- Housed approximately 6 months ago.  There has been the thought 
that he would need a group home.
- He has missed last two appointments (she has not seen him in 
___ weeks).  The ___ worker had been helping with 
transportation to appointments, but he was not at his place for 
the last appointment.
- She is concerned that he is failing outpatient treatment.
- Previously, he has smoked K2.  She is unsure if this is a 
current issue.
- He does not have a guardian.
- He has an uncle in ___, who he was able to visit when 
he was on medications.  No other known relatives.
- He did recently fracture his jaw.  She believes that he was 
evaluated at ___ for that.
- She wonders if he could benefit from a monthly injection. 

BEST Records: 
-Patient has had 2 past BEST evaluations
-PPH- Schizophrenia; past K2 use; h/o mediation noncompliance; 
___ in ___ following being found walking 
around in street w/o shoes during blizzard, w/ disorientation, 
unable to answer questions, nonverbal grunts, paranoid, 
agitated, delusions about government; past meds risperidone 3 mg 
QHS & Latuda 120 mg QHS
-Community supports: ___ Worker, ___ (___)

COLLATERAL from ___:
Per conversation with former ___ worker ___ 
(___) and current ___ worker ___ (___): 
Patient has been avoiding case workers and missed the last few 
appointments. Last seen ___ patient appeared collected but 
somewhat anxious about acquiring money from rep payee ___ from 
___ at ___. Patient is normally seen weekly
by ___. Patient does not have a guardian. Patient has mother 
and brother in ___ (brother: ___ at 
___. Patient normally collected/organized but had fall 
and hurt chin jaw ___ with possible subsequent procedures; 
since, has had less clear speech.  Concern for alcohol use in 
___ per staff at ___ apartment ___. 
Patient currently on Risperidone 3 mg PO qHS, Prilosec 20 mg PO 
BID and PRN Loperamide per recent records.
 
Past Medical History:
Past psychiatric history:
-Diagnoses: Schizophrenia, prior K2 use
-Hospitalizations: Multiple, last at ___ ___ per BEST.
-SA/SIB: Denied history of SA. Denied history of SIB.
-Medications: Has tried Latuda in the past.  Currently on 
Risperidone 3 mg.
-Treaters: Dr. ___ at ___ (___)
-Trauma: Unknown
-Access to weapons: Denied
-Violence: ___
Past medical history:
-Denies any medical problems other than ?jaw fracture requiring
surgery in ___. Per patient received care at ___.
-He has attempted to arrange outpatient dental and podiatry
care, but it was unclear precisely which steps he had taken.
 
Social History:
___
Family History:
Unknown
 
Physical Exam:
ADMISSION EXAMINATION:
VS:BP:122/80 HR:84 temp:98  resp:18  O2 sat:99%   
___ male appearing older than stated age 
with long unkempt beard and dirty fingernails
Skin- Excoriations along both arms, with dirt covering the webs 
of his toes.
HEENT-MMM, unable to fully open mouth 
Lungs- CTAB, no wheeze/crackles
CV-RRR, no murmur
Abdomen: soft, nondistended, nontender
Extremities- Thickened, discolored toenails, multiple 
excoriations on shins

Neuro-
CN: 
   I: Not tested.
   II: Pupils equally round and reactive to light bilaterally. 
Visual fields are full to confrontation.
   III, IV, VI: Extraocular movements intact bilaterally without 
nystagmus.
   V, VII: Facial strength and sensation intact and symmetric.
   VIII: Hearing intact to voice.
   IX, X: Palatal elevation symmetrical.
   XI: Sternocleidomastoid and trapezius normal bilaterally.
   XII: Tongue midline without fasciculations.
 *Motor- wnl; moving upper and lower extremities bilaterally 
with normal range of motion.  
   *Coordination: grossly normal.
   *Sensation: grossly normal.
   *Gait: wnl; narrow-based with no truncal ataxia. Normal 
stance and posture.
   *Romberg: Negative.

Neuropsychiatric Examination:
  *Appearance: Age-appearing man with long, discheveled hair and 
poor hygiene, wearing a hospital gown.  
  Behavior: Cooperative, fair eye contact.
  *Mood and Affect: "good"/euthymic 
  *Thought process: Generally linear  
  *Thought Content: Impoverished; Denied SI. Denied HI. Denied 
auditory and visual hallucinations.
  *Judgment and Insight: Impaired/Impaired
  Cognition:
    *Attention, *orientation, and executive function: Alert and 
oriented to interview.
    *Memory: ___ registration, ___ delayed recall 
    *Fund of knowledge: Unable to name current president   
    *Speech: Poor clarity; regular rate, rhythm and prosody.
    *Language: Speaks with accent

DISCHARGE EXAM:
     Exam:
  *VS:  BP: 115/83  HR: 106  temp: 98.5 resp: 17 O2 sat: 100% RA
  Neurological:
    *station and gait: Steady and narrow based, good initiation, 
symmetric arm swing
    *tone and strength: There is no postural or action tremor. 
Moves all extremities briskly antigravity
    cranial nerves: Gaze is conjugate, fixes and tracks, face
symmetric, no dysarthria
    abnormal movements: no oral dyskinesias.
  *Appearance: Hair is greasy. He is wearing tshirt and new 
sweatshirt and pants.

Behavior:
  *Mood and Affect: Euthymic, pleasant, cooperative
  *Thought process: linear
  *Thought Content: focused on discharge.
  *Judgment: Impaired
  *Insight: poor (still cannot state the nature of his illness, 
defers all medication questions to his physicians)

  Cognition:
    *Attention, *orientation, and executive function: attentive,
oriented to being in hospital but does not recall which one, not 
oriented to date
    *Memory: historical events remain vague
    *Speech: no dysarthria out of proportion to poor dentition
    *Language: accented, fluent, no grammatical errors or 
paraphasias.
 
Pertinent Results:
___ > 13.3/41.1 < 217

N% 45.6, L% 42.7, M% 7.1, E% 4.0, B 0.2%, ImGran 0.4%
 
 139 | 101 |  17
------------------< 106
 4.1 |  25 | 0.8

Urinalysis: bland
Tox (serum/urine): negative

___
ALT-18 AST-15 AlkPhos-71 TotBili-0.6
TSH-1.___. LEGAL & SAFETY:  
On admission, the patient signed a conditional voluntary 
agreement (Section 10 & 11) and remained on that level 
throughout his admission. However, he was not able to understand 
the terms of this agreement and was therefore admitted on a 
___, which expired on ___.  At that time, after 
compliance with medical treatment, he was able to understand the 
conditions and signed a conditional voluntary agreement (Section 
10 & 11) which was accepted. He remained on that level 
throughout his admission. He filed a request for discharge on 
___ and declined to stay past the three day evaluation 
period. He was also placed on 15 minute checks status on 
admission and remained on that level of observation throughout 
while being unit restricted.

2. PSYCHIATRIC:
#1) Schizophrenia: Admitted for disorganized thinking and 
behavior and poor self care. Throughout his admission, he had no 
positive symptoms of hallucinations or delusions and mood was 
euthymic. He remained calm and pleasant but isolated, speaking 
to staff politely when requested and participating in a home 
safety evaluation, but declining all participation in groups and 
interacting minimally with other residents.

On admission, his home Risperdal was increased to 3 mg BID from 
3 mg daily. He remained compliant with his medications 
throughout his hospitalization. He was evaluated by occupational 
therapy and demonstrated some safety awareness, although his 
assessment was limited by reportedly not having his glasses. He 
was able to describe how he would tidy his home and go to a 
dental clinic on discharge. His thinking became more organized 
during the hospitalization, although he was not proactive in his 
personal hygiene.

Given his difficulty with medication compliance prior to 
admission, he was started on long-acting Risperdal and his oral 
regiment was consolidated from risperidone 3 mg BID to 6 mg 
daily. He will follow up with his psychiatrist and primary care 
provider, who are aware of his admission and course.

3. SUBSTANCE USE DISORDERS:
#1) On admission, the patient endorsed smoking tobacco daily and 
was given a nicotine patch and gum. He denied recent alcohol, K2 
or other substance use and his tox screens were negative on 
presentation to the ED. Of note, he did develop tachycardia to 
100-110s 72 hours after admission without other signs of 
withdrawal, which resolved without intervention.

4. MEDICAL
#1) Scabies
Completed treatment with two doses of ivermectin 13.5 mg on ___ 
and ___. 

#2) Previous jaw injury
During his hospitalization, we attempted to determine the 
nature, etiology and extent of the patient's recent facial 
injury. Unfortunately, it was unclear where, it at all, he had 
been treated for this, and there was no evidence of any 
follow-up appointments planned at ___ despite the patient's 
insistence that he was going to be seen there. Records were 
reviewed at ___ (last seen ___, ___ (last seen ___ 
for intoxication), and ___ (last seen ___ and there was no 
evidence of assessment or admission for any traumatic injury in 
the reported time frame.  According to his primary care 
physician, he has had dental complaints for some time, and has a 
distant history of mandibular abscesses, but no other known 
medical treatment for a traumatic jaw injury.

5. PSYCHOSOCIAL
#1) GROUPS/MILIEU:  
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit.  The 
patient’s primary team met with them daily and various 
psychotherapeutic modalities were utilized during those times. 
The patient declined to participate in group sessions but did 
participate in one-on-one discussions with providers and 
occupational therapy.

#2) COLLATERAL CONTACTS & FAMILY INVOLVEMENT
- Attempted to contact his family (brother and mother in 
___ several times, but they did not return calls.

#3) INTERVENTIONS
- Medications: risperdone IM 50 mg every 2 weeks, risperdone PO 
6 mg daily
- Psychotherapeutic Interventions: Individual, group, and milieu 
therapy.
- Coordination of aftercare: psychiatrist and PCP as above
- Behavioral Interventions (e.g. encouraged DBT skills, ect): 
one-on-one treatment with OT regarding home safety, otherwise 
declined.
- Guardianships: none

INFORMED CONSENT: The team discussed the indications for, 
intended benefits of, and possible side effects and risks of 
starting this medication, and risks and benefits of possible 
alternatives, including not taking the medication, with this 
patient.   We discussed the patient's right to decide whether to 
take this medication as well as the importance of the patient's 
actively participating in the treatment and discussing any  
questions about medications with the treatment team, and I  
answered the patient's questions.  The patient appeared able to 
understand and consented to begin the medication.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. risperiDONE 3 mg oral daily  
2. omeprazole 20 mg oral bid 
3. Multivitamins 1 TAB PO DAILY 
4. LOPERamide 2 mg PO TID:PRN loose stool 

 
Discharge Medications:
1. LOPERamide 2 mg PO TID:PRN loose stool 
2. Multivitamins 1 TAB PO DAILY 
3. omeprazole 20 mg oral bid 
4. RisperiDONE 6 mg PO DAILY 
5. RisperiDONE Long Acting Injection 50 mg IM EVERY 2 WEEKS (FR) 


 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Schizophrenia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital because we were concerned that 
you were at risk of starting a fire in your home. Here, we 
adjusted your medications and started you on an injectable 
version of your medication which you will get once every two 
weeks. You need to keep taking the pills at first, while the 
medication gets into your system.

-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Please continue all medications as directed.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
 
*It was a pleasure to have worked with you, and we wish you the 
best of health.*
 
Followup Instructions:
___